US08791102B2
Proceeding as in Reference 5, but substituting 4-(4-bromophenoxy)aniline and (S)-2-(tert-butoxycarbonylamino)-3-(4-fluorobenzyloxy)propanoic acid, gave (S)-2-amino-N-(4-(4-bromophenoxy)phenyl)-3-(4-fluorobenzyloxy)propanamide (200 mg, 50%).

reactant | 4-(4-bromophenoxy)aniline | BrC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C12H10BrNO
reactant | (S)-2-(tert-butoxycarbonylamino)-3-(4-fluorobenzyloxy)propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)COCC1=CC=C(C=C1)F | C15H20FNO5
product | (S)-2-amino-N-(4-(4-bromophenoxy)phenyl)-3-(4-fluorobenzyloxy)propanamide | 200 mg, 50% | N[C@H](C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)Br)COCC1=CC=C(C=C1)F | C22H20BrFN2O3
